Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Visual and auditory hallucinations
 
Major Surgical or Invasive Procedure:
Lumbar Puncture

 
History of Present Illness:
The patient is a ___ year old right handed male with history
of atrial fibrillation (not on ac), hypertension, 
hyperlipidemia,
anxiety/depression, and BPH who presents with several days of
well formed auditory and visual hallucinations for which
neurology was consulted.

Patient was joined by his friend who helps relay some details. 
Per
patient he has overall been in his usual state of health other
than a cough over the past few days for which he has been taking
Mucinex. He has noticed some memory issues for perhaps 6 months
(although his friend says at least a year). He will forget
people's names or what he went into a room to do. This has 
gotten
slowly worse over time but doesn't really impede his day to day. 


Then, last week he couldn't find any of his medications. They 
are
usually all in the same place, but it is like they disappeared
into thin air. he actually had to go to the pharmacy and get all
of his prescriptions refilled. He thought this was odd but
otherwise things were status quo.

Then on ___ he felt very weak all over. He also felt a bit
unsteady on his feet. He took his blood pressure and it was in
the 200s. He called his doctor but was just told to lay down and
drink water. He rechecked his blood pressure and it was ok at
that time. He then felt normal for the rest of the day. Then on
___ evening, he was sitting in a chair and he saw a vivid
woman come to him. She was talking to him about diets. He thinks
she was talking about the ___ diet. After they talked
for a while (unclear- minutes?), he reached out to grab a book
she was handing him and she vanished. He realized he had perhaps
been seeing things and she was not real. He was a little
distressed by this, but decided to not seek help. He said that
throughout the rest of the evening he saw various people and 
even
talked to them. They were all friendly and non threatening. When
he would go to engage them, they would disappear into thin air.
There was no loss of vision or flashes or light.

Then on ___ night, the same thing happened. It was different
people. One was a lady showing him a newspaper and when he
reached for it, it disappeared. He could hear them talking to
him. Again, he decided to just wait his symptoms out. 

Then this morning he was with his friend and his friend noticed
he was reaching out for something in the air. He asked him what
he was reaching for. He said he was reaching for the lox and
bagels. The patient says a woman was bringing him lox and when 
he
reached out for it, everything disappeared. He told his friend
about the visions he had been having. His friend encouraged him
to come to the hospital. He was quite reluctant to come to the
hospital because its expensive but he finally agreed. His friend
noticed that he also seemed to be stuttering more than usual
today. He also noted about a minute period of dysarthria when
they were waiting in the waiting room. 

He denies changes to his mood. He does have a history of anxiety
which is perhaps slightly worse recently but not severe. He has
been a bit anxious about finances and some conflict with is
brother. He denies hallucinations prior to a few days ago. He
reports good sense of smell. He does have constipation. He also
has odd sensation in his legs at times and feels he needs to 
walk
around. He has been told he moves around in his sleep and kicks
his legs. He has had about 30 pound weight loss after the death
of his wife in ___. He started eating simple small meals when
she was sick and lost weight in that setting. He now watches 
what
he eats to ensure the weight stays off. He takes no new
medications and as far as he knows there have been no changes in
his medications. He denies missing periods of time, strange
smells or rising sensations. He has never had a stroke or
seizure. There is no family history of stroke of seizures. His
father had dementia. 

Otherwise, the patient reports no symptoms of headaches,
confusion, vision loss or change, no tremors, focal weakness or
sensory disturbances. 

 
Past Medical History:
?atrial fibrillation
hypertension
hyperlipidemia
depression/anxiety - one episode ___ years ago with severe
anxiety and depression requiring him to stay in bed for 5 weeks
but was never hospitalized; stable since on Wellbutrin           

?restless legs syndrome

 
Social History:
___
Family History:
 Father- memory issues, ?dementia; Brother- "mental health
issues"- several trials of ECT; no family history of movement
disorders, strokes, seizures   
 
Physical Exam:
ON ADMISSION
===========
PHYSICAL EXAMINATION
Vitals: Temp Pulse RR BP Rhythm O2 sat O2 flow Pain
97.0 76 16 118/68 MAP: 84.7 99

General: Awake, cooperative, pleasant, not distressed
HEENT: NC/AT, no scleral icterus noted 
Neck: Supple, no carotid bruits appreciated 
Pulmonary: Lungs CTA bilaterally, cough on exam
Cardiac: RRR, nl 
Abdomen: soft, NT/ND 
Extremities: No ___ edema 
Skin: no rashes or lesions noted 

Neurologic:

-Mental Status: Alert, engaged in conversation, oriented to
person, ___ in ___, ___", ___.
Knows why he is at the emergency department. He hesitates a few
times on months of year backward and misses ___. Language is
fluent although he does stutter a few times and says, "uh, uh,
uh" at times. There is normal prosody. He made several 
paraphasic
errors (ie said ___ instead of ___) but self corrects.
Repetition intact. He can name high and low frequency objects. 
He
can follow complex axial and appendicular commands. Registers 4
words and recalls ___ at 5 minutes. No R/L confusion,
calculations intact, no ideomotor apraxia, no neglect. Luria
breaks down after 2 sequences. Bilateral palmomental reflex
present, glabellar reflex present. No grasp or snout.

-Cranial Nerves:
 II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. VFF to confrontation.  V: Facial sensation intact to
light touch.
 VII: No facial droop, facial musculature symmetric. No
hypomimia. Normal blink rate. 
 VIII: Hearing intact to ___ bilaterally.
 IX, X: Palate elevates symmetrically.
 XI: ___ strength in trapezii and SCM bilaterally.
 XII: Tongue protrudes in midline.

-Motor: Normal bulk, increased tone of LUE at baseline and
increase tone LUE>RUE with augmentation. No asterixis. He did
touch his face and chest frequently while talking. There was a
rare jaw tremor which was ___ mm and present <15% of the time. 
No
other tremors noted. There was bradykinesia for finger taps 

   Delt Bic Tri WrE FFl FE  IP Quad Ham TA Gastroc 
 L  5    ___   ___   5    5  5     5     
 R  5    ___   5  5    5   5    5  5     5   

-Sensory: No deficits to light touch, pinprick,  proprioception
throughout. No extinction to DSS.

-DTRs:
   Bi Tri ___ Pat Ach
 L  2  2    2    2   1
 R  2  2    2    3   1
 Plantar response was flexor bilaterally. Pec jerks present no
clonus. No jaw jerk.

-Coordination: slight L>R intention tremor, no dysmetria. 

-Gait: Good initiation. ___, shuffling, decreased arm
swing bilaterally (no clear worse side), no clear stooping, fast
turn and did not turning en bloc   

ON DISCHARGE
===========

PHYSICAL EXAMINATION
========================
24 HR Data (last updated ___ @ 805)
    Temp: 98.3 (Tm 98.4), BP: 134/70 (___), HR: 61
(___), RR: 18 (___), O2 sat: 96% (___), O2 delivery: Ra   

General: Awake, cooperative, pleasant, not distressed
HEENT: NC/AT, no scleral icterus noted, cvEEG 
Neck: Supple, no carotid bruits appreciated 
Pulmonary: Lungs CTA bilaterally, cough on exam
Cardiac: RRR, nl 
Abdomen: soft, NT/ND 
Extremities: No ___ edema 
Skin: no rashes or lesions noted 

Neurologic:

-Mental Status: Alert, engaged in conversation, oriented to
person, name of hospital, reason for hospitalization, time, 
date.
Able to name months of year backward, but does hesitate multiple
times. Language is fluent although he does stutter a few times.
There is normal prosody. Repetition intact. He can name high and
low frequency objects. He can follow complex axial and
appendicular commands. Registers 3 words and recalls ___ at 5
minutes. No R/L confusion, calculations intact but when
subtracting quickly makes mistakes but corrects himself, no
ideomotor apraxia, no neglect. Bilateral palmomental reflex
present, glabellar reflex present. No grasp or snout.

-Cranial Nerves:
 II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. VFF to confrontation.  
V: Facial sensation intact to light touch.
 VII: No facial droop, facial musculature symmetric. No
hypomimia. Normal blink rate. 
 VIII: Hearing intact to ___ bilaterally.
 IX, X: Palate elevates symmetrically.
 XI: ___ strength in trapezii and SCM bilaterally.
 XII: Tongue protrudes in midline.

-Motor: Normal bulk, increased tone of LUE at baseline and
increased tone LUE>RUE with augmentation. No asterixis or 
adventitious movements. There was bradykinesia for finger taps 

   Delt Bic Tri WrE FFl FE  IP Quad Ham TA Gastroc 
 L  5    ___    ___   5    5  5     5     
 R  5    ___   5  5    5   5    5  5     5   

-Sensory: No deficits to light touch throughout. No extinction 
to
DSS.

-DTRs:
   Bi Tri ___ Pat Ach
 L  2  2    2    2   1
 R  2  2    2    3   1
 Plantar response was flexor bilaterally. Pec jerks present no
clonus. No jaw jerk.

-Coordination: slight L>R intention tremor, no dysmetria. 
-Gait: narrow based, steady. mildly stooped
 
Pertinent Results:
LABS
====

___ 04:16PM CEREBROSPINAL FLUID (CSF) ___ 
___
___ 06:28AM BLOOD ___ 
___ Plt ___
___ 06:28AM BLOOD ___ 
___
___ 09:43AM BLOOD ___
___ 09:43AM BLOOD ___
___ 09:43AM BLOOD ___
___ 09:33AM URINE ___ Sp ___
___ 09:33AM URINE ___ 
___
___ 09:33AM URINE ___ 
___

DIAGNOSTICS
==========

___ MRI head w/wo contrast: 
1. No acute intracranial abnormality.  No abnormal postcontrast 
enhancement.
2. Involutional and chronic small vessel disease changes.

___ CTA head and neck:
1. There is no evidence of acute intracranial process or 
hemorrhage.
2. Atherosclerotic calcification causing mild narrowing of the 
bilateral
cavernous and supraclinoid internal carotid arteries.  
Otherwise, the vessels
of the head and neck appear patent and without ___ 
stenosis, occlusion,
or aneurysmal change.
3. 1.5 cm hypodensity in the left thyroid lobe.  Recommendation 
as below.
4. Multiple prominent neck lymph nodes, which are not enlarged 
by size
criteria.
 
Brief Hospital Course:
Mr ___ is a ___ with HTN, HLD, afib, anxiety and remote 
history of depression who presented with several days of well 
formed visual and auditory hallucinations without overt mood 
symptoms on a background of progressive memory issues for at 
least a year and was admitted to General Neurology. There are no 
overt infectious symptoms other than cough over the past few 
days. No new medications. There are symptoms of constipation, 
possible REM sleep disorder, RLS by history. 

Currently believe his well formed complex visual and auditory 
hallucinations with retained insight in the absence of mood 
symptoms combined with 1+ year of cognitive decline is 
consistent with a neurodegenerative process (such as DLB or PD) 
precipitated by the recent increase of Wellbutrin XL from 150 mg 
daily to BID. His dose was decreased back to 150 mg XL daily. We 
also suggest a follow up outpatient appointment with cognitive 
neurology for formal neuropsychiatric testing and monitoring of 
his symptoms over time.

Other etiologies considered are hypnagogic or hypnopompic 
hallucinations, but he thinks believes he is awake during 
hallucinations and has seen hallucinations while our team is at 
the bedside. Superimposed delirium is a possibility although 
unlikely as only mildly inattentive and infectious ___ 
negative, including bland CSF studies. HSV PCR, Sjogren's, 
treponemal Ab and Lyme studies are still pending. There does not 
appear to be a clear chemical trigger with normal CRP, ESR, ___, 
RH, B12, TSH. He has had no other toxic ingestions reported and 
tox screens were negative. Seizures could be a possibility 
although this complex/vivid and not stereotyped ictal phenomenon 
would be atypical and cvEEG has been without electrographic 
seizures. Structural process (ischemia or lesion) felt to be 
less likely given otherwise ___ exam and a normal MRI 
brain w/wo contrast. No overt mood symptoms to suggest prior 
psychiatric process. Psychiatry was consulted and do not believe 
his hallucinations stem from a  psychiatric cause. 

Mr ___ currently feels well, although he still endorses 
conversing with people he realizes are not there when they 
disappear or do not answer, they are not frightening.

TRANSITIONAL ISSUES:
=====================
[] Follow up with Cognitive Neurology 
- Progressive memory changes over the past year with new AVH
- Consider neuropsychiatric evaluation
- Follow up final EEG reports
[] Follow up with PCP
- ___ decreased to 150 mg daily from 150 mg twice daily
- Consider non dopaminergic antidepressant 
- F/U HSV PCR, RO & LA, Lyme Ab
[] ___ home check for safety and assessment at discharge

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. BuPROPion XL (Once Daily) 150 mg PO BID 
2. amLODIPine 5 mg PO DAILY 
3. Lisinopril 40 mg PO DAILY 
4. bisoprolol fumarate 10 mg oral DAILY 
5. Finasteride 5 mg PO DAILY 
6. Doxazosin 2 mg PO HS 
7. Atorvastatin 20 mg PO QPM 

 
Discharge Medications:
1.  BuPROPion XL (Once Daily) 150 mg PO DAILY  
2.  amLODIPine 5 mg PO DAILY  
3.  Atorvastatin 20 mg PO QPM  
4.  bisoprolol fumarate 10 mg oral DAILY  
5.  Doxazosin 2 mg PO HS  
6.  Finasteride 5 mg PO DAILY  
7.  Lisinopril 40 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Audiovisual Hallucinations

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Lethargic but arousable.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ after experiencing audio and visual 
hallucinations. You had a lumbar puncture which was not 
concerning for an infectious or inflammatory disease. A MR of 
your brain did not show a stroke or tumor which could be causing 
symptoms. You had an EEG which did not show seizures. 
Additionally, you had blood work looking for infection or 
abnormalities with the chemicals in your blood. These results 
came back normal.

You were evaluated by our Psychiatry team, and it was noted that 
your Wellbutrin had been increased recently. We think this may 
be the primary cause of your hallucinations. Your Wellbutrin 
dosing was decreased. However, you will need close follow up 
with Cognitive Neurology and your Primary Care Physician to 
monitor your symptoms.

Changes in your medications:
- Decrease Wellbutrin XL to 150mg daily 

Please follow up with your PCP and ___ as below.

It was a pleasure taking care of you.

Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___